US08357693B2
To a mixture of tert-butyl 5-(6-(2-chloroethoxy)-7-methoxy-2-(3-(2-morpholinoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.280 g, 0.407 mmol) in DMF (2 mL) and THF (3 mL) was added pyrrolidine (0.8 mL). The resultant mixture was heated at 85° C. for 2 h, upon which it was allowed to cool to RT, the volatiles were removed in vacuo and the residue was taken up in ice-water (200 mL). The resulting precipitate was collected via filtration and subjected to preparative TLC (SiO2, CH2Cl2:MeOH 83:17) to give tert-butyl 5-(7-methoxy-2-(3-(2-morpholinoacetamido)-phenyl)-6-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.085 g, 0.118 mmol, 29%). HPLC retention time 3.81 minutes.

reactant | tert-butyl 5-(6-(2-chloroethoxy)-7-methoxy-2-(3-(2-morpholinoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.407 mmol, 0.280 g | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)NC(CN1CCOCC1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C35H38ClN7O6
reactant | pyrrolidine | 0.8 mL | N1CCCC1 | C4H9N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-(7-methoxy-2-(3-(2-morpholinoacetamido)-phenyl)-6-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.118 mmol, 0.085 g, 29% | COC1=C(C=C2C(=NC(=NC2=C1)C1=CC(=CC=C1)NC(CN1CCOCC1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCN1CCCC1 | C39H46N8O6
